US20010012905A1
The method consists of a first synthesis stage, in which a mixture of 4-acetylnaphthalic anhydride, aniline, and glacial acetic acid is heated under reflux, the reaction mixture is cooled, the precipitated gray crystals are separated by filtration, treated with hydrochloric acid solution, then with hot sodium carbonate solution, and recrystallized from acetic acid. Acetyl derivative, the 4-acetylnaphthalic acid phenylimide is obtained.

reactant | 4-acetylnaphthalic anhydride | C(C)(=O)C1=CC=C(C2=CC=CC=C12)C(=O)OC(=O)C1=CC=C(C2=CC=CC=C12)C(C)=O | C26H18O5
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-acetylnaphthalic acid phenylimide | C1(=CC=CC=C1)N=C(O)C1=CC=C(C2=CC=CC=C12)C(C)=O | C19H15NO2
